US07534905B2
Asymmetric tandem aldol-allylation reaction of benzaldehyde to give (1S,3S)-3-methyl-1-phenyl-hex-5-ene-1,3-diol: To a solution of (4R,5R)-2-allyl-2-isopropenyloxy-4,5-bis-(1-methoxy-1-methyl-ethyl)-[1,3,2]dioxasilolane (0.75 mmol) in benzene (0.3 mL) was added benzaldehyde (0.50 mmol). The mixture was heated to 40° C. (oil bath) and stirred at that temperature for 48 hours. The solution was cooled and 1 M HCl (10 mL) was added followed by ethyl acetate (10 mL). The mixture was stirred for 20 min. The layers were separated and the aqueous layer was extracted with ethyl acetate (10 mL). The combined organic layers were washed with saturated aqueous NaHC03 (10 mL) and brine (10 mL), dried (Na2SO4), filtered, and concentrated. Analysis of the residue by HPLC and 1H NMR revealed a 5.5:1 mixture of diastereomers and an enantiomeric excess for the major product of 68%. The residue was purified by chromatography on silica gel to give (1S,3S)-3-methyl-1-phenyl-hex-5-ene-1,3-diol in 70% yield and in 68% ee.

reactant | (4R,5R)-2-allyl-2-isopropenyloxy-4,5-bis-(1-methoxy-1-methyl-ethyl)-[1,3,2]dioxasilolane | 0.75 mmol | C(C=C)[Si]1(O[C@H]([C@@H](O1)C(C)(C)OC)C(C)(OC)C)OC(=C)C | C16H30O5Si
reactant | benzaldehyde | 0.50 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 1 M, 10 mL | Cl | ClH
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | benzene | 0.3 mL | C1=CC=CC=C1 | C6H6
product | (1S,3S)-3-methyl-1-phenyl-hex-5-ene-1,3-diol | 70% yield | C[C@@](C[C@H](O)C1=CC=CC=C1)(CC=C)O | C13H18O2
